US06482827B1
3-(4-Methoxyphenyl)-propyl iodide
Methanesulfonyl chloride (31 mL) was added dropwise to a solution of 3-(4-methoxyphenyl)-1-propanol (50 g) and triethylamine (56 mL) in dichloromethane (800 mL) at 0° C. The resulting mixture was stirred overnight at room temperature. After washing with water, 2% hydrochloric acid and 4% aqueous sodium bicarbonate, the organic solution was dried over sodium sulfate and rotoevaporated to yield crude 3-(4-methoxyphenyl)-1-propyl methanesulfonate as a colourless solid (ca. 83 g). This product and sodium iodide (75 g) in acetone (800 mL) were heated at reflux in the dark for 20 hours. After cooling to room temperature, the reaction mixture was poured into n-hexane/EtOAc/water 1:1:1 (1.5 L) under stirring. The organic layer was washed with water, diluted aqueous sodium metabisulfite and 4% aqueous sodium bicarbonate, then dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by passing it through a short pad of silica gel (eluting with n-hexane/EtOAc 95:5). The title compound was obtained as a pale yellow solid (75 g).

reactant | sodium iodide | 75 g | [I-].[Na+]
reactant | n-hexane EtOAc water | 1.5 L | CCCCCC.CCOC(=O)C.O
reactant | acetone | 800 mL | CC(=O)C | C3H6O
product | 3-(4-Methoxyphenyl)-propyl iodide | COC1=CC=C(C=C1)CCCI | C10H13IO
